US06737421B1
a) 6-Nitro-2-carboxybenzamide
52.5 g (0.27 mol) of 3-nitrophthalic anhydride were stirred in portions over the course of 30 minutes into 75 ml of concentrated aqueous ammonia at room temperature. The mixture was then cooled to 0° C., after which a precipitate crystallized out and was filtered off with suction. This precipitate was dissolved in 125 ml of water by gently heating, and 25.6 ml of 32% strength hydrochloric acid were rapidly added. The mixture was cooled to 0° C., and the crystals which separated out were filtered off with suction. 45 g of the product were obtained.

reactant | 3-nitrophthalic anhydride | 0.27 mol, 52.5 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | ammonia | 75 ml | N | H3N
product | 6-Nitro-2-carboxybenzamide | 45 g | [N+](=O)([O-])C1=CC=CC(=C1C(=O)N)C(=O)O | C8H6N2O5
